2133-08-11 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   MS changes in the ED.  Patient was intubated in ED and transfered to
   [**Hospital Unit Name 1**].
   Spiked temp to 101.7 this morning.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-8-11**] 05:40 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 74 (74 - 86) bpm
   BP: 154/72(91) {123/60(74) - 154/72(91)} mmHg
   RR: 18 (12 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             608 mL
   PO:
             TF:
   IVF:
   108 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,400 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -792 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 24 cmH2O
   Compliance: 36.5 cmH2O/mL
   SpO2: 97%
   ABG:7.35 / 66/162/38/8
   Ve: 8.9 L/min
   Physical Examination
   GEN:intubated and sedated, does not repond to voice, responds to
   noxious stimuli
   HEENT: NCAT, Pupils small equal, reactive to light, OG & ET in place
   LUNGS: CTA anteriorly, ventilated
   CV: RRR, s1 & S2 nl, no m/r/g
   ABD:no bs, obese abdomen, non-distended.
   EXT: lymphedematous legs and arms, chronic skin thickening on LE bilat,
   no areas of erythema,
   PIVx3 (2 20s and 1 22)
   Back: not examened
 by report sacral decubitus
 will exam later
   today.
   Labs / Radiology
   194 K/uL
   12.3 g/dL
   37.4 %
   8.3 K/uL
        [image002.jpg]
   Lytes
   Na 139       Ca 8.8
   K4.1           Mg 2.0
   CL 99         Phos 3.6
   HCO3 33
   BUN 13
   Cr 0.5
   COAGs pending
   Vanco level   6.9
                             [**2133-8-11**]  06:07 AM
   WBC
   8.3
   Hct
   37.4
   Plt
   194
   NON-CONTRAST CT HEAD: There is no evidence of intracranial hemorrhage,
   shift
   of normally midline structures, mass, mass effect, or edema. There is
   dilation of the lateral, third, and fourth ventricles noted. The
   osseous
   structures are grossly unremarkable. Scattered opacification of the
   maxillary, ethmoid and sphenoid sinuses is noted.
   IMPRESSION: Limited exam without evidence of acute intracranial
   process.
   CTA chest: [**2133-8-10**]
   IMPRESSION:
   1. No evidence of pulmonary embolus to the lobar level.
   2. An endotracheal tube lies 1 cm above the carina.
   3. Bilateral patchy consolidative changes may represent atelectasis,
   edema or
   aspiration pneumonia as secretions are noted in the airways.
   Assessment and Plan
   Mr. [**Known lastname 901**] is a 49 yo M with dwarfism, chronic LE lymphedema with
   recent admission for lower extremity cellulitis c/b tachycardia,
   dyspnea and hypercarbic respiratory failure requiring intubation.
   .
   # Hypercarbic respiratory failure/Altered Mental Status - unclear
   inciting cause for acute hypercarbia in the ED which prompted
   intubation, Other considerations include pulmonary edema vs.
   pneumonia.  Concern re: CHF   An intracranial event such as CVA or
   hemorrhage although not seen on CT scan.
   -continue with mechanical ventillation
   -check ABG
   -consider SBT later today
   -bolus sedation with versed
   -check ECHO for evidence of CHF.  Consider lasix if evidence of CHF.
   Obtain record of previous ECHO from [**Hospital1 609**].
   .
   #dyspnea, sinus tachycardia- unclear etiology, main concern at OSH was
   for pulmonary embolus, however not seen on preliminary report of CTA,
   other possibilities include pulmonary edema
   .
   #Bilateral LE cellulitis - unclear if new cellulitis or just chronic
   stasis in setting of lymphedema.  No WBC or fever at OSH, unclear if
   appearance has changed since IV abx.
   -continue vancomycin for now
   -elevated LE
   -examen back later today.
   .
   #Hypertension - currently normotensive
   -hold outpatient regimen of metoprolol and terazosin
   .
   #Stage II Sacral Decubitus - noted at osh
   -wound care
   -consdier wound consult for reccs
   .
   #FEN - replete lytes prn, volume status unclear, NPO continue with OGT
   to suction
   .
   #PPX: heparin sq, PPI, bowel reg prn, HOB at 30 deg, mouth care
   .
   #Code
 full code
   #Access
 1 PIV 22 g. Obtain central line today.
   # Contact
 wife (number in chart)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2133-8-11**] 05:56 AM
   20 Gauge - [**2133-8-11**] 05:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-08-12 06:22:00 Physician Resident Progress Note
Chief Complaint:
   Respiratory distress and altered mental status
   24 Hour Events:
   Fevers continue. Levaquin restarted.
   L IJ CVL placed.
   Low UOP for 2-3 hours requiring 2 boluses of 500ml NS.
   BNP [**2133-8-11**]: 113
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-8-11**] 05:40 AM
   Metronidazole - [**2133-8-11**] 08:00 PM
   Vancomycin - [**2133-8-11**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2133-8-11**] 02:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-12**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37
C (98.6
   HR: 89 (63 - 90) bpm
   BP: 163/72(94) {102/57(68) - 163/91(107)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (7 - 14)mmHg
   Total In:
                                                                  2,865 mL
                                                                     95 mL
   PO:
   TF:
   IVF:
                                                                  1,985 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  2,003 mL
                                                                    230 mL
   Urine:
                                                                  1,503 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    862 mL
                                                                   -135 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 19
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 26 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/51/70/31/9
   Ve: 9.6 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Gen: NAD, sedated, opens eyes to name; follows some commands
   CV: RRR, no M/R/G
   Lungs: on VC ventilation, diffuse coarse bs
   Abd:  obese, distended, nontender, bs+
   Ext: 2+ LE edema, nonpalpable pedal pulses, warm
   Labs / Radiology
   Blood cx: pending
   Urine cx: pending
   Sputum cx: pending
   166 K/uL
   12.5 g/dL
   91 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   37.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2133-8-11**]  06:07 AM
                             [**2133-8-11**]  08:06 AM
                             [**2133-8-12**]  04:46 AM
   WBC
   8.3
   7.9
   Hct
   37.4
   37.2
   Plt
   194
   166
   Cr
   0.5
   0.5
   TCO2
   37
   Glucose
   96
   91
   Other labs: PT / PTT / INR:14.9/31.0/1.3, Lactic Acid:1.2 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 901**] is a 49 yo M with achondroplasia, chronic LE lymphedema
   with recent admission for lower extremity cellulitis c/b tachycardia,
   dyspnea and hypercarbic respiratory failure requiring intubation.
   # Hypercarbic respiratory failure/Altered Mental Status - unclear
   inciting cause for respiratory failure in the ED which prompted
   intubation, ddx includes pulmonary embolism although prelim read from
   CTA with no evidence of large PE.  Likely has a component of chronic
   hypercarbia +/- acute hypercarbia as well given CO2 of 90 on
   admission.  Other considerations include pneumonia, UTI, pulmonary
   edema, intracranial event such as CVA or hemorrhage although not seen
   on CT scan.   Pneumonia more likely given infiltrate on CT scan.
   - mental status improved; when sedation is decreased pt responds to his
   name and follows basic commands.
   -continue with mechanical ventilation
   -check ABG
   -in face of PEEP of 10 and high FiO2 requirements not likely to
   extubate today.
   -consider lasix after ECHO if concern for pulmonary edema
   .
   #dyspnea, sinus tachycardia- unclear etiology, main concern at OSH was
   for pulmonary embolus, less likely in face of negative CTA [**2133-8-10**],
   other possibilities include pneumonia or pulmonary edema.
   - continue levoquin
   -hold off on additional abx for now, consider adding cefepime for
   additional GN coverage such as cefepime if continues to spike fevers or
   elevated WBC
   -ECHO today to further evaluate cardiac function
   -consider lasix pending echocardiogram
   .
   #Bilateral LE cellulitis -  appears to be chronic stasis in setting of
   lymphedema.  No WBC or fever at OSH, unclear if appearance has changed
   since IV abx.
   -continue vancomycin for now, will increase dose given low trough
   - vanc trough pending
   .
   #Hypertension
 blood pressure has increased this AM; if pt continues
   to maintain BP and UOP consider starting home dose of metoprolol and
   terazosin
   .
   #Stage II Sacral Decubitus - noted at osh, not apparent on exam here
   -wound care consult not necessary at this time
   # FEN
   -          Request nutrition consult
   -           Can start tube feeds.  Hold tube feeds prior to any attempt
   to extubate.
   ICU Care
   Nutrition: replete lytes prn, volume status unclear, start tube feeds
   Glycemic Control:  well controlled
   Lines:
   Left IJ CVL (placed [**2133-8-11**])
   PIV
   22 Gauge - [**2133-8-11**] 05:56 AM
   20 Gauge - [**2133-8-11**] 05:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2133-08-17 06:31:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure, ? R otitis externa
   24 Hour Events:
   No events overnight
   Temp 100.9 F overnight
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-8-16**] 10:40 AM
   Metronidazole - [**2133-8-16**] 02:20 PM
   Vancomycin - [**2133-8-16**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-8-16**] 08:07 AM
   Fentanyl - [**2133-8-16**] 09:46 AM
   Furosemide (Lasix) - [**2133-8-16**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-17**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.6
   HR: 82 (73 - 100) bpm
   BP: 120/68(79) {105/35(48) - 156/126(131)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 52 Inch
             Total In:
                                                                  2,615 mL
                                                                    142 mL
   PO:
             TF:
                                                                  1,290 mL
   IVF:
                                                                  1,141 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,260 mL
   Urine:
                                                                  3,085 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                 -1,118 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 220 (220 - 220) mL
   PS : 0 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 152
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: ///37/
   Ve: 7.5 L/min
   Physical Examination
   Gen: NAD, answers yes/no questions, denies pain
   CV: RRR, no M/R/G
   Lungs: CTA anteriorly, difficult to asses on vent
   Abd: obese, very distended and firm, nontender
   Ext: warm, 2+pedal and radial pulses, no cyanosis, LE edema (chronic)
   Skin: Blisters on L hand healing well, no new lesions, thin thickening
   and hyperpigmentation of LE
   Labs / Radiology
   188 K/uL
   12.5 g/dL
   112 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   143 mEq/L
   37.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2133-8-11**]  08:06 AM
                             [**2133-8-12**]  04:46 AM
                             [**2133-8-13**]  04:56 AM
                             [**2133-8-14**]  04:05 AM
                             [**2133-8-14**]  05:41 PM
                             [**2133-8-14**]  11:50 PM
                             [**2133-8-15**]  02:31 AM
                             [**2133-8-15**]  03:47 AM
                             [**2133-8-16**]  04:23 AM
                             [**2133-8-17**]  04:28 AM
   WBC
   7.9
   7.7
   8.5
   6.4
   6.9
   7.5
   Hct
   37.2
   37.4
   38.0
   35.7
   37.7
   37.0
   Plt
   166
   180
   192
   [**Telephone/Fax (3) 919**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   38
   38
   Glucose
   91
   85
   99
   96
   98
   114
   112
   Other labs: PT / PTT / INR:14.8/26.9/1.3, Differential-Neuts:69.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:0.9
   mmol/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   49 yo M with achondroplasia, chronic LE lymphedema a/w hypercarbic
   respiratory failure with an unclear precipitant.
   .
   # Hypercarbic respiratory failure
 suspect PNA vs. pulm edema, in
   addition to a likely component of acute on chronic hypercarbia; becomes
   hypoxic, tachypneic with low Vt when tires out on PSV, poor RSBI;
   secretions are improving
   -cont. full support
   - fentanyl boluses PRN to maintain comfort
   -cont. vanco/levo/flagyl for resp pathogens, no dramatic respiratory
   improvement on current regimen
   -suction PRN
   -cont. prn diuresis with IV lasix to improve respiratory status
   # Low grade fevers: persist; etiology unclear; infection vs drug
   reaction
   -          Continue to watch cultures and WBC count
   -          Compare daily cxr
   -          If continues without evidence of infection will consider
   discontinuing antibiotics
   .
   #R otitis externa
 difficult to evaluate TM involvement;
   symptomatically improving
   -polymixin-neomycin drops QID
   -consider adding better systemic anti-pseudomonal cov
g if worsens
   -follow clinically
   .
   #HTN
   -increase lopressor to home dose today
   -uptitrate captopril as BP will tolerate
   .
   # F/E/N
   -TF
   -volume goal: -1
 1.5 L x 24 hrs
   .
   #PPx
 SQH, PPI
   .
   #CODE
 FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-11**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-08-17 11:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                                       History obtained from Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2133-8-17**] 12:00 AM
   Vancomycin - [**2133-8-17**] 09:14 AM
   Levofloxacin - [**2133-8-17**] 10:40 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2133-8-16**] 12:00 PM
   Lansoprazole (Prevacid) - [**2133-8-17**] 09:15 AM
   Heparin Sodium (Prophylaxis) - [**2133-8-17**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.9
   Flowsheet Data as of  [**2133-8-17**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.5
C (99.5
   HR: 84 (73 - 100) bpm
   BP: 120/83(90) {105/35(48) - 156/126(131)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 52 Inch
             Total In:
                                                                  2,649 mL
                                                                  1,289 mL
   PO:
             TF:
                                                                  1,323 mL
                                                                    497 mL
   IVF:
                                                                  1,141 mL
                                                                    662 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,560 mL
   Urine:
                                                                  3,085 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -436 mL
                                                                   -271 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 220 (220 - 220) mL
   PS : 0 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 152
   PIP: 30 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   188 K/uL
   112 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   143 mEq/L
   37.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2133-8-11**]  08:06 AM
                             [**2133-8-12**]  04:46 AM
                             [**2133-8-13**]  04:56 AM
                             [**2133-8-14**]  04:05 AM
                             [**2133-8-14**]  05:41 PM
                             [**2133-8-14**]  11:50 PM
                             [**2133-8-15**]  02:31 AM
                             [**2133-8-15**]  03:47 AM
                             [**2133-8-16**]  04:23 AM
                             [**2133-8-17**]  04:28 AM
   WBC
   7.9
   7.7
   8.5
   6.4
   6.9
   7.5
   Hct
   37.2
   37.4
   38.0
   35.7
   37.7
   37.0
   Plt
   166
   180
   192
   [**Telephone/Fax (3) 919**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   38
   38
   Glucose
   91
   85
   99
   96
   98
   114
   112
   Other labs: PT / PTT / INR:14.8/26.9/1.3, Differential-Neuts:69.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:0.9
   mmol/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR--Very poor quality film.  ETT appears to be well above
   carina and would favor advancing of tube if confirmed by radiology.
   Left sided CVL appears in distal IJ and consistend with past films.
   Assessment and Plan
   49 yo male admitted with hypercarbic respiratory failure and now with
   continued antibiotic support and full support with volume cycled
   ventilation..
   1)Respiratory Failure-he had significant hypercarbia and now has
   continued issues of
   A)High volume secretions
these have improved
   B)Volume overload
will move to diureis today.
   C)He has a resistance of 7 cmH2O/liter/Sec which would suggest minimal
   airways resistance despite low lung volumes.
   D)Chest wall restriction
this is multifactorial
will work with diuresis
   and continued bowel regimen as primary goal.
   Will need to maintain high vigilance for recurrent or significant
   infection.  Will have to trend fever curve as possible.
   Will need ETT tube positioned adequately.
   2)Pneumonia-
   Vanco/Levo/Flagyl
   10 day course suggested
but may move to 7 days given higher serum EOS
   and low grade fevers with rash.  Will depend on clinical status over
   next days.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: Left Sided IJ
will tolerate position
   Multi Lumen - [**2133-8-11**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-08-18 06:52:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   49 yo M with achondroplasia, chronic LE lymphedema a/w hypercarbic
   respiratory failure with an unclear precipitant
   24 Hour Events:
   NPO past midnight for possible extubation today.
   Patient's ET tube was repositioned and appears to be correctly
   positioned.
   Had a pressure support trial this morning and the patient did fairly
   well on PSV of [**11-8**].  He had rr 20-30s.  His RSBI was 36.  He denied
   feeling dyspneic.  It was thought that perhaps some of difficulty of
   extubating him was due to altered mechanics due to body habitus.  We
   tested for a cuff leak and he did not have airflow around his ET tube.
   The decision was made to treat with steroids for 24 hrs and re-eval
   tomorrow.
   Subjective:  Ear pain is improved.  Patient seems frustrated with being
   on the vent and does not like having the OG tube in place.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-8-17**] 10:40 AM
   Vancomycin - [**2133-8-17**] 09:41 PM
   Metronidazole - [**2133-8-18**] 03:20 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-8-17**] 09:15 AM
   Heparin Sodium (Prophylaxis) - [**2133-8-18**] 12:21 AM
   Furosemide (Lasix) - [**2133-8-18**] 12:21 AM
   Fentanyl - [**2133-8-18**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-18**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 96 (61 - 99) bpm
   BP: 130/61(36) {101/23(36) - 171/114(117)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 52 Inch
             Total In:
                                                                  2,152 mL
                                                                    186 mL
   PO:
             TF:
                                                                    585 mL
   IVF:
                                                                  1,226 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    330 mL
   Urine:
                                                                  2,910 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                   -144 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90% x2 and then 36
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 6.8 L/min
   Physical Examination
   Gen:  Patient has less dyspnea while lying on his side
   Lungs: diffuse expiratory wheezes and crackles bilat at the bases
   CV:  RRR, s1 & s2 nl, no m/r/g
   Abd: +bs, obese, non-tender, nd
   Ext: warm, dry,
   Labs / Radiology
   188 K/uL
   12.5 g/dL
   112 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.1 mEq/L
   14 mg/dL
   99 mEq/L
   143 mEq/L
   37.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2133-8-11**]  08:06 AM
                             [**2133-8-12**]  04:46 AM
                             [**2133-8-13**]  04:56 AM
                             [**2133-8-14**]  04:05 AM
                             [**2133-8-14**]  05:41 PM
                             [**2133-8-14**]  11:50 PM
                             [**2133-8-15**]  02:31 AM
                             [**2133-8-15**]  03:47 AM
                             [**2133-8-16**]  04:23 AM
                             [**2133-8-17**]  04:28 AM
   WBC
   7.9
   7.7
   8.5
   6.4
   6.9
   7.5
   Hct
   37.2
   37.4
   38.0
   35.7
   37.7
   37.0
   Plt
   166
   180
   192
   [**Telephone/Fax (3) 919**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   38
   38
   Glucose
   91
   85
   99
   96
   98
   114
   112
   Other labs: PT / PTT / INR:14.8/26.9/1.3, Differential-Neuts:69.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:0.9
   mmol/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR [**2133-8-18**]
 low lung volumes, no significant change from
   previous, pattern of interstial infiltrates.
   Microbiology: urine cx NGTD
   ear cx NGTD
   Sputum:
   rare coag + staph
   NGTD
   rare yeast.
   Blood cx neg x2 & NGTD x1
   Assessment and Plan
   49 yo M with achondroplasia, chronic LE lymphedema a/w hypercarbic
   respiratory failure with an unclear precipitant.
   # Hypercarbic respiratory failure
 suspect PNA vs. pulm edema, in
   addition to a likely component of acute on chronic hypercarbia; becomes
   hypoxic, tachypneic with low Vt when tires out on PSV, poor RSBI;
   secretions are improving
   -cont. full support
   - fentanyl boluses PRN to maintain comfort
   -cont. vanco/levo/flagyl for resp pathogens, no dramatic respiratory
   improvement on current regimen
   -suction PRN
   -cont. prn diuresis with IV lasix to improve respiratory status
   -Patient did not have cuff leak signifying upper airway edema
 give
   Decadron 10mg IV Q8hr x3 and re-eval for cuff leak.
   # Low grade fevers: persist; etiology unclear; infection vs drug
   reaction
   -          Continue to watch cultures and WBC count
   -          Compare daily cxr
   -          If continues without evidence of infection will consider
   discontinuing antibiotics
   #R otitis externa
 difficult to evaluate TM involvement;
   symptomatically improving; re-examine later today.
   -polymixin-neomycin drops QID
   -consider adding better systemic anti-pseudomonal cov
g if worsens
   -follow clinically
   #HTN
   -lopressor at home dose
   -uptitrate captopril as BP will tolerate
   # F/E/N
   -TF
   -volume goal: -1
 1.5 L x 24 hrs  - give lasix 40mg IV now and re-eval
   need for further diuresis later in day.  Check pm lytes.
   #PPx
 SQH, PPI
   #CODE
 FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-11**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-08-18 10:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with favorable RSBI this morning
   Has response to Albuterol in terms of dynamic airflow obstruction
   Patient with ETT repositioning attempted with improvement on CXR
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-8-17**] 10:40 AM
   Metronidazole - [**2133-8-18**] 03:20 AM
   Vancomycin - [**2133-8-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-8-18**] 12:21 AM
   Heparin Sodium (Prophylaxis) - [**2133-8-18**] 08:00 AM
   Fentanyl - [**2133-8-18**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2133-8-18**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 100 (61 - 100) bpm
   BP: 130/71(85) {101/23(36) - 171/114(117)} mmHg
   RR: 27 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 52 Inch
             Total In:
                                                                  2,152 mL
                                                                    473 mL
   PO:
             TF:
                                                                    585 mL
   IVF:
                                                                  1,226 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    403 mL
   Urine:
                                                                  2,910 mL
                                                                    403 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                     70 mL
   Respiratory support
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   RSBI Deferred: Sao2 < 90%
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.43/54/73.[**Numeric Identifier 218**]/31/9
   Ve: 8.3 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   191 K/uL
   83 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   97 mEq/L
   139 mEq/L
   38.4 %
   8.4 K/uL
         [image002.jpg]
                             [**2133-8-13**]  04:56 AM
                             [**2133-8-14**]  04:05 AM
                             [**2133-8-14**]  05:41 PM
                             [**2133-8-14**]  11:50 PM
                             [**2133-8-15**]  02:31 AM
                             [**2133-8-15**]  03:47 AM
                             [**2133-8-16**]  04:23 AM
                             [**2133-8-17**]  04:28 AM
                             [**2133-8-18**]  08:23 AM
                             [**2133-8-18**]  09:00 AM
   WBC
   7.7
   8.5
   6.4
   6.9
   7.5
   8.4
   Hct
   37.4
   38.0
   35.7
   37.7
   37.0
   38.4
   Plt
   180
   192
   214
   184
   188
   191
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   38
   38
   37
   Glucose
   85
   99
   96
   98
   114
   112
   94
   83
   Other labs: PT / PTT / INR:14.8/26.9/1.3, Differential-Neuts:69.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR-ETT at level of clavicles, no evidence of new infiltrate
   Assessment and Plan
   49 yo male with hypercarbic respiratory failure secondary to chest wall
   restriction and possible pneumonia with concern for volume overload.
   1)  Respiratory Failure-
        -Patient does have some favorable findings of improved mental
   status, some tolerance of PSV support with a RSBI that is reassuring
   earlier this morning, He has had negative fluid balance this morning as
   well.
       -Issue do remain of ongoing secretions, continued restriction of
   the chest wall due to body habitus, variable RSBI and difficult
   intubation.
       -He has had 7 days of intubation.  He has excellent mental status,
   he has Ve requirement of 10 lpm, FIO2 requirement of 0.5,
       -Given his overall stability and improvement in regards to his
   respiratory status and now being faced with some chronic ventilatory
   compromise will favor move to extubation trial with non-invasive mask
   suppport.  Will have to move to extubation with plan for re-intubation
   with difficult airway noted in past.
        -Will trial patient on SBT x 60 minutes, check cuff leak and
   repeat ABG
        -If no cuff leak seen will have to consider upper airway
   obstruction.
        -Will extubate with anesthesia back up if at all possible given
   difficult airway.
   2)Pneumonia-
       -Levofloxacin/Vanco/Flagyl
       -Secretions improving
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-11**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-08-19 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2133-8-19**] 04:00 AM
   pt with violent coughing spasm
   Patient with reasonable stability following patient initiated
   extubation
   He had received IV decadron in setting of evidence of upper airway
   edema
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-8-17**] 10:40 AM
   Metronidazole - [**2133-8-18**] 03:20 AM
   Vancomycin - [**2133-8-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2133-8-18**] 11:12 AM
   Furosemide (Lasix) - [**2133-8-18**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2133-8-18**] 11:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Cough, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2133-8-19**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 88 (85 - 114) bpm
   BP: 133/77(86) {108/55(67) - 181/103(124)} mmHg
   RR: 27 (17 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 52 Inch
             Total In:
                                                                    954 mL
                                                                    417 mL
   PO:
             300 mL
   TF:
                                                                     21 mL
   IVF:
                                                                    643 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  2,899 mL
                                                                    305 mL
   Urine:
                                                                  1,859 mL
                                                                    305 mL
   NG:
                                                                  1,040 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,945 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (291 - 621) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.34/72/179/38/10
   Ve: 7.5 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : Rare--mid expiratory)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   191 K/uL
   127 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.9 mEq/L
   20 mg/dL
   85 mEq/L
   142 mEq/L
   38.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2133-8-14**]  05:41 PM
                             [**2133-8-14**]  11:50 PM
                             [**2133-8-15**]  02:31 AM
                             [**2133-8-15**]  03:47 AM
                             [**2133-8-16**]  04:23 AM
                             [**2133-8-17**]  04:28 AM
                             [**2133-8-18**]  08:23 AM
                             [**2133-8-18**]  09:00 AM
                             [**2133-8-18**]  09:27 PM
                             [**2133-8-19**]  07:54 AM
   WBC
   8.5
   6.4
   6.9
   7.5
   8.4
   Hct
   38.0
   35.7
   37.7
   37.0
   38.4
   Plt
   192
   214
   184
   188
   191
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.7
   TCO2
   38
   38
   37
   41
   Glucose
   96
   98
   114
   112
   94
   83
   136
   127
   Other labs: PT / PTT / INR:14.8/26.9/1.3, Differential-Neuts:69.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0
   mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: ABG-7.34/72/179
   Assessment and Plan
   49 yo male with history of mental retardation now with evidence of
   chronic ventilatory compromise given chest wall restriction.  He may
   have a component of abdominal restriction secondary to distention, some
   evidence of pulmonary edema and additionally a relative metabolic
   alkalosis given recent diuresis attempted and "overcompensation" from a
   renal standpoint for the respiratory acidosis.
   Respiratory Failure
he has continued respiratory acidosis which may
   well be a chronic condition and need to be treated with intermittent
   ventilatory support
this will have to be explored over time.
   -Wean O2 as possible
   -BIPAP PRN if needed for hypoventilation
may be reasonable to trial
   tonight
   -I/O goal is even
   -PRN diuresis as needed
   Hypertension-
   -Increase Captopril dosing to facilitate afterload reduction
   ICU Care
   Nutrition: Favor adequate eval prior to return to full po
supervised
   feeds to start
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-11**] 03:08 PM
move to replace with peripheral IV
   as possible
   Prophylaxis:
   DVT: OOB, boots, s/q heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes